US05272147
(E)-3-(1-Methyl-7-oxo-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-5-yl)- 4-n-propoxycinnamic acid t-butyl ester
To a solution of 5-(5-bromo-2-n-propoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one (1.0 g, 0.0025 mol) and triethylamine (0.38 g, 0.0038 mol) in acetonitrile (2ml), was added palladium(II) acetate (0.03 g, 0.00013 mol), tri-o-tolylphosphine (0.076 g, 0.00025 ,ol) and t-butyl acrylate (0.48 g, 0.0038 mol). The mixture was heated under reflux for 4 hours, then cooled and evaporated under vacuum. The residue was suspended in water (30 ml) and extraction with dichloromethane (3×20 ml) effected. The organic extracts were combined, dried (Na2SO4) and evaported under vacuum to give a yellow-green solid. Chromatography on silica gel (12 g), using a methanol in dichloromethane elution gradient (2-2% methanol), followed by crystallisation from ethyl acetate-hexane gave the title compound as a white solid (0.65 g, 58%), m.p. 167°-168° C. Found: C,66.47; H,7.00; N,12.31. C25H 32 N4O4 requires C,66.35; H,7.13; N,12.38%.

reactant | 5-(5-bromo-2-n-propoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | 0.0025 mol, 1.0 g | BrC=1C=CC(=C(C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O)OCCC | C18H21BrN4O2
reactant | triethylamine | 0.0038 mol, 0.38 g | C(C)N(CC)CC | C6H15N
reactant | tri-o-tolylphosphine | 0.076 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | t-butyl acrylate | 0.0038 mol, 0.48 g | C(C=C)(=O)OC(C)(C)C | C7H12O2
solvent | acetonitrile | 2ml | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 0.00013 mol, 0.03 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-3-(1-Methyl-7-oxo-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-5-yl)- 4-n-propoxycinnamic acid t-butyl ester | 0.65 g, 58% | C(C)(C)(C)OC(\C=C\C1=CC(=C(C=C1)OCCC)C=1NC(C2=C(N1)C(=NN2C)CCC)=O)=O | C25H32N4O4
